US07217740B2
Sodium phenylsulfinate (16.4 g, 0.1 mol) and 4-fluorobenzaldehyde (12.4 g, 0.1 mol) were combined in dimethylsulfoxide (100 mL) and heated at 120° C. for 4 days. The cooled reaction was poured into water. The resulting crystals were filtered off and washed with water, then dissolved in ethyl acetate/dichloromethane, dried and concentrated in vacuo until crystallisation ensued. The mixture was diluted with isohexane and the crystals filtered off and washed with further isohexane to yield 4-(phenylsulfonyl)benzaldehyde (19.6 g, 80%). δH (500 MHz, d6 DMSO): 10.06 (1H, s), 8.16 (2H, d, J=8.3 Hz), 8.09 (2H, d, J=8.3 Hz), 7.99 (2H, d, J=7.7 Hz), 7.71 (1H, t, J=6.9 Hz), 7.63 (2H, t, J=7.7 Hz).

reactant | Sodium phenylsulfinate | 0.1 mol, 16.4 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | 4-fluorobenzaldehyde | 0.1 mol, 12.4 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | water | O | H2O
solvent | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
product | 4-(phenylsulfonyl)benzaldehyde | 19.6 g, 80% | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=O)C=C1 | C13H10O3S
